US07728025B2
(Step 7) Production of 5-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazole
500 mg of potassium carbonate was added to a solution of 375 mg of 2,2,2-trifluoro-1-(2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone in a mixture of 16 ml of methanol and 3 ml of water, and the reaction liquid was stirred overnight at room temperature. The reaction liquid was distilled under reduced pressure, diluted with aqueous saturated sodium bicarbonate added thereto, and then extracted with ethyl acetate. The organic layer was washed with saturated saline, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol/aqueous ammonia=10/1/0.1) to obtain the entitled compound as a pale yellow solid.

reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoro-1-(2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | 375 mg | FC(C(=O)N1C(CCC1)C1=CC2=C(N=C(N2)C2=NC=CC=C2)C=C1OC1=CC=C(C=C1)S(=O)(=O)C)(F)F | C25H21F3N4O4S
solvent | methanol | 16 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 5-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazole | CS(=O)(=O)C1=CC=C(OC2=CC3=C(NC(=N3)C3=NC=CC=C3)C=C2C2NCCC2)C=C1 | C23H22N4O3S
